US06403608B1
3-t-Butyl-4-Isopropoxy-3-cyclobutene-1,2-dione
t-Butyl lithium (2.29 ml of a 1.7M solution in pentane, 3.9 mmol) was added to a solution of 3,4-diisopropoxy-3-cyclobutene-1,2-dione (594 mg, 3 mmol) in THF (30 ml) at −78° C. After 5 h trifluoroacetic anhydride (636 μl, 4.5 mmol) was added and stirring continued at −78° C. for 30 min. The cold mixture was poured into NH4Cl(aq), extraced with EtOAc, dried (Na2SO4) and evaporated in vacuo. Column chromatography (SiO2; EtOAc/hexane, 15:85) gave the title compound as a mobile yellow oil (408 mg, 69%). δH (CDCl3) 5.43 (1H, sept, J 6.2 Hz), 1.45 (6H, d, J 6.2 Hz) and 1.33 (9H, s); m/z (ES+, 70V) 197 (MH+).

reactant | t-Butyl lithium | C(C)(C)(C)[Li]
reactant | 3,4-diisopropoxy-3-cyclobutene-1,2-dione | 3 mmol, 594 mg | C(C)(C)OC=1C(C(C1OC(C)C)=O)=O | C10H14O4
reactant | trifluoroacetic anhydride | 4.5 mmol, 636 μl | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | NH4Cl | [NH4+].[Cl-]
solvent | pentane | CCCCC | C5H12
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-t-Butyl-4-Isopropoxy-3-cyclobutene-1,2-dione | 408 mg, 69% | C(C)(C)(C)C=1C(C(C1OC(C)C)=O)=O | C11H16O3
